** sch_path: /foss/designs/ICONS2026/xschem/tb_boot_bottom_diff.sch
**.subckt tb_boot_bottom_diff
Cp1 p2 vss 10f m=1
Cp2 p1 vss 10f m=1
x1 net2 VDD VSS p2 sg13g2_inv_2
x2 net1 VDD VSS p1 sg13g2_inv_2
x3 trackb net1 VDD VSS net2 sg13g2_nand2_2
x4 net2 track VDD VSS net1 sg13g2_nand2_2
x5 track VDD VSS trackb sg13g2_inv_2
Vtrk net3 GND pulse(0 vdd 0 trf trf {per/2} per 0)
Vsup vdd GND vdd
Vsup1 vss GND 0
Cp vcp votap cl m=1
G1 vop GND votap GND 100e-3
S7 vop vcp p2 GND SW1
Cp3 vop GND cl m=1
S8 votap GND track GND SW1
S10 vop GND p1 GND SW1
Cp5 votap GND 100f m=1
R2 track net3 1k m=1
x6 vdd p1 p2 vcp vip boot1
E1 vsp vsc vsd GND 0.5
E2 vsn vsc vsd GND -0.5
Vcm vsc GND vcm
Vdm vsd GND sin(0 vamp fin 0)
Rp vsp vip rs m=1
Rm vin vsn rs m=1
Cp4 vcn votan cl m=1
G2 von GND votan GND 100e-3
S1 von vcn p2 GND SW1
Cp6 von GND cl m=1
S2 votan GND track GND SW1
S3 von GND p1 GND SW1
Cp7 votan GND 100f m=1
x7 vdd p1 p2 vcn vin boot1
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.param vdd=1.2 vcm=0.6 vamp=0.6
.param cl=1.3p cb=1.3p cp=65f w=24u ng=2
.param ndft=31 npad=5 bin=5 fclk=500e6 runs=15
.param per=1/fclk fin=fclk*bin/ndft trf=100p
.param vh=0 rsw=10 roff=1e9 rs=10

.csparam per=per runs=runs
.csparam tstop1 = 4*per
.csparam tstop2 = per*(ndft+npad)
*.option method=gear reltol=1e-6 chgtol=1e-16
.option chgtol=1e-16 reltol=1e-5

.control
    tran 1n $&tstop1
    write tb_boot_bottom_diff.raw
    option numdgt=9
    set wr_singlescale
    set wr_vecnames
    compose bin_vec start=1 stop=$&runs step=1
    foreach i $&bin_vec
      alterparam bin=$i
      reset
      tran 10p $&tstop2 0
      let lin-tstep = per
      let lin-tstart = 1.9n
      linearize
      wrdata tb_boot_bottom_diff.txt v(vip) v(vop) v(von)
      destroy all
      set appendwrite
      unset wr_vecnames
    end
    unset appendwrite
.endc


**** end user architecture code
**.ends

* expanding   symbol:  boot1.sym # of pins=5
** sym_path: /foss/designs/ICONS2026/xschem/boot1.sym
** sch_path: /foss/designs/ICONS2026/xschem/boot1.sch
.subckt boot1 vdd p1 p2 vo vi
*.ipin vi
*.opin vo
*.ipin p2
*.ipin p1
*.iopin vdd
Cm1 vtop vbot {cb} m=1
S1 vbot GND p2 GND SW1
S2 vdd vtop p2 GND SW1
S3 vg vtop p1 GND SW1
S4 vi vbot p1 GND SW1
S5 GND vg p2 GND SW1
Cp4 vg GND cp m=1
XM1 vi vg vo GND sg13_lv_nmos w=w l=0.13u ng=ng m=1
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.6 VH=vh
+ RON=1 ROFF=roff
**** end user architecture code
.end
